US06313310B1
3-Hydroxy-3-[4-[2-(4-morpholinyl)-ethoxy]-phenyl]-1-propyne was prepared according to Method A above from 4-[2-(4-morpholinyl)-ethoxy]-benzaldehyde (0.630 g, 2.68 mmol) (see below) in THF (20 mL) and ethynylmagnesium chloride (3.0 mmol, 6 mL, 0.5M solution in tetrahydrofuran) (Aldrich). (Yield 492 mg, 70%).

reactant | 4-[2-(4-morpholinyl)-ethoxy]-benzaldehyde | 2.68 mmol, 0.630 g | N1(CCOCC1)CCOC1=CC=C(C=O)C=C1 | C13H17NO3
reactant | ethynylmagnesium chloride | 3.0 mmol, 0.5M, 6 mL | C(#C)[Mg]Cl
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-Hydroxy-3-[4-[2-(4-morpholinyl)-ethoxy]-phenyl]-1-propyne | OC(C#C)C1=CC=C(C=C1)OCCN1CCOCC1 | C15H19NO3
